US07807709B2
Phenyl-cyclopropyl-carbamoyl chloride
The title compound is prepared analogously as described for benzyl-methyl-carbamoyl chloride from cyclopropyl-phenyl-amine prepared according to 0 Synlett 2003, 14, 2139. MS (LC-MS): [M+H]+=196.2. tR (HPLC, Waters Symmetry C18 column, 20-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 4.44 min.

reactant | benzyl-methyl-carbamoyl chloride | C(C1=CC=CC=C1)N(C(=O)Cl)C | C9H10ClNO
reactant | cyclopropyl-phenyl-amine | C1(CC1)NC1=CC=CC=C1 | C9H11N
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | Phenyl-cyclopropyl-carbamoyl chloride | C1(=CC=CC=C1)N(C(=O)Cl)C1CC1 | C10H10ClNO
